US06982278B2
(4-Mercapto-2-propyl-phenoxy)-acetic acid ethyl ester
A mixture of (4-chlorosulfonyl-2-propyl-phenoxy)-acetic acid ethyl ester (1.12 g, 3.5 mmol), tin powder (2.1 g) and HCl (4.0 M in dioxane, 4.4 mL) in ethanol (4.4 mL) was refluxed for 4 h, the mixture was poured into ice, extracted with methylene chloride. The combined organic layers were washed with brine, dried over sodium sulfate, concentrated to give the title compound, which was used for next step without purification.

reactant | (4-chlorosulfonyl-2-propyl-phenoxy)-acetic acid ethyl ester | 3.5 mmol, 1.12 g | C(C)OC(COC1=C(C=C(C=C1)S(=O)(=O)Cl)CCC)=O | C13H17ClO5S
reactant | tin | 2.1 g | [Sn] | Sn
reactant | HCl | 4.0 M, 4.4 mL | Cl | ClH
solvent | ethanol | 4.4 mL | C(C)O | C2H6O
product | (4-Mercapto-2-propyl-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)S)CCC)=O | C13H18O3S
